US04709032
The same procedure as described in Referential example 3 were repeated using 4.0 g of 5-isoquinolinesulfonyl chloride, 6.95 g of 4-t-butoxycarbonylamino-3-phenylbutylamine and 2.66 g of triethylamine, and there were obtained 6.6 g of N-(4-t-butoxycarbonylamino-3-phenylbutyl)-5-isoquinolinesulfonamide in a yield of 83%.

reactant | 5-isoquinolinesulfonyl chloride | 4.0 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | 4-t-butoxycarbonylamino-3-phenylbutylamine | 6.95 g | C(C)(C)(C)OC(=O)NCC(CCN)C1=CC=CC=C1 | C15H24N2O2
solvent | triethylamine | 2.66 g | C(C)N(CC)CC | C6H15N
product | N-(4-t-butoxycarbonylamino-3-phenylbutyl)-5-isoquinolinesulfonamide | 6.6 g, yield of 83% | C(C)(C)(C)OC(=O)NCC(CCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)C1=CC=CC=C1 | C24H29N3O4S
